US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with cinnamaldehyde as described in Example 11 to give 1-nitro-5-styryl-5,6-dihydropyrazolo[1,5-c]quinazoline. M.p.: 171°-173° C. Yield: 85.5%.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | cinnamaldehyde | C(C=CC1=CC=CC=C1)=O | C9H8O
product | 1-nitro-5-styryl-5,6-dihydropyrazolo[1,5-c]quinazoline | Yield: 85.5% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C=CC2=CC=CC=C2 | C18H14N4O2
